US07084166B2
Preparation of 1,1-di-(5 nitroindol-3-yl)-butane (ST 1429)
ST 1429 was prepared from 5-nitroindole and butyraldehyde prepared using the method described in example 2/1.

reactant | 5-nitroindole | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | butyraldehyde | C(CCC)=O | C4H8O
product | 1,1-di-(5 nitroindol-3-yl)-butane | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C(CCC)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C20H18N4O4
